US05256781
The preparation of 2-chloro-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-4-quinazolinamine.
To 50 mL of tetrahydrofuran were added 2,4-dichloroquinazoline (0.30 g). N-[[-2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl amine hydrochloride (0.434 g) and 2.0 g of sodium acetate. The resulting suspension was stirred at room temperature for 53 hours at which time all the THF was removed by evaporation. The residue was purified by silica gel chromatography to yield 0.234 g of the desired product. (38%). The product was characterized as its sodium salt: 1H NMR (DMSO-d6, 400 MHz) δ 9.30 (t, J=5.9 Hz, 1H), 8.31 (d, J=7.8 Hz, 1H), 7.79 (m, 1H), 7.61 (d, J=8.4 Hz, 1H), 7.52 (m, 2H), 7.32 (m, 3H), 7.18 (d, J=8.2 Hz, 2H), 7.07 (d, J=8.2 Hz, 2H), 4.72 (d, J=5.8 Hz, 2H); negative FAB MS m/e 412 (M-Na)

reactant | 2,4-dichloroquinazoline | 0.30 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | [-2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl amine hydrochloride | 0.434 g | Cl.N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN
reactant | sodium acetate | 2.0 g | C(C)(=O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-chloro-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-4-quinazolinamine | 0.234 g | ClC1=NC2=CC=CC=C2C(=N1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H16ClN7
